US06911457B2
To a solution of metformin in dry toluene was slowly added heptafluorobutyric anhydride (1.2 equivalents) and stirred at ambient temperature for 4 hours. The reaction was terminated by addition of water and the reaction mixture was precipitated in acetone. The crude fluorinated metformin was chromatographed on silica gel, yielding N-heptafluorobutyryl N,N′-dimethylimidodicarbonimidic diamide.

reactant | metformin | CN(C)C(=N)NC(=N)N | C4H11N5
reactant | heptafluorobutyric anhydride | 1.2 equivalents | FC(C(C(C(=O)OC(C(C(C(F)(F)F)(F)F)(F)F)=O)(F)F)(F)F)(F)F | C8F14O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | N-heptafluorobutyryl N,N′-dimethylimidodicarbonimidic diamide | FC(C(C(=O)N(C(=N)N(C(N)=N)C)C)(F)F)(C(F)(F)F)F | C8H10F7N5O
